US05994390
(±)-cis-3-(4-Fluorophenyl)-7-methoxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-chromane
A mixture of (±)-cis-3-(4-fluorophenyl)-4-(4-hydroxyphenyl)-7-methoxy-chromane, (0.53 9, 1.51 mmol) potassium carbonate, (2.10 g, 15.2 mmol) sodium iodide, (0.01 g, 0.07 mmol) 1-(2-chloroethyl)pyrrolidine hydrochloride, (0.28 g, 1.65 mmol) and acetone, (35 ml) was stirred at 60° C., under reflux, for 24 h. The resulting mixture was filtered and the solvent evaporated to give a colourless gum, which solidified on cooling. The crude solid was recrystallised from aqueous ethanol to give the product as colourless needles, which were vacuum dried.

reactant | (±)-cis-3-(4-fluorophenyl)-4-(4-hydroxyphenyl)-7-methoxy-chromane | FC1=CC=C(C=C1)[C@@H]1COC2=CC(=CC=C2[C@@H]1C1=CC=C(C=C1)O)OC | C22H19FO3
reactant | potassium carbonate | 1.51 mmol, 2.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.07 mmol, 0.01 g | [I-].[Na+]
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 1.65 mmol, 0.28 g | Cl.ClCCN1CCCC1
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | (±)-cis-3-(4-Fluorophenyl)-7-methoxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-chromane | FC1=CC=C(C=C1)[C@@H]1COC2=CC(=CC=C2[C@@H]1C1=CC=C(C=C1)OCCN1CCCC1)OC | C28H30FNO3
